US07229943B2
Preparation of 4,7-Diphenyl-1H-benzimidazole-2-carbaldehyde
A solution of 11.1 ml (27.72 mmol) n-BuLi (2.5 M in hexanes) was added dropwise to a cooled to −78° C. solution of 3.4 g (13.2 mmol) 1,1′:4′,1″-terphenyl-2′,3′-diamine in 110 ml THF. The reaction mixture was stirred at −78° C. for 1 hour and 2.4 ml (13.5 mmol) dry ethyl diethoxyacetate were added dropwise over 1 min. The solution was then stirred at 78° C. for 30 min, allowed to slowly warm up room temperature, stirred for another 30 min and the heated at reflux for 2 hours. Formation of white precipitate (LiOH) was observed during the reflux. After cooling to room temperature and addition of 60 ml water the reaction mixture was carefully neutralized with the addition of 5N acetic acid. Diethyl ether (200 ml) was then added, the formed biphasic mixture was vigorously stirred and the organic layer separated. It was washed with water (3×100 ml) and dried over anhydrous sodium sulfate. Evaporation of the solvent afforded an yellow-brown oil which was dissolved in 15 ml THF and 60 ml 4N HCl were added. The mixture was stirred at reflux for 2 hours, cooled to room temperature and 120 ml icy water was added. The mixture was stirred vigorously for 10 min at ˜0° C. and then filtered. The solid was suspended in 70 ml water and neutralized with 10% aqueous sodium carbonate. The solid was filtered again, washed with water and dried at room temperature under reduced pressure. Yield—2.85 g (72.4%). 1H NMR (250 MHz, CDCl3), δ, ppm: 7.54 (m, 10H), 8.03 (br. s, 2H), 10.06 (s, 1H), 10.31 (br. s, 1H).

reactant | n-BuLi | 27.72 mmol, 2.5 M, 11.1 ml | [Li]CCCC
reactant | 1,1′:4′,1″-terphenyl-2′,3′-diamine | 13.2 mmol, 3.4 g | C1(=CC=CC=C1)C=1C(=C(C(=CC1)C1=CC=CC=C1)N)N | C18H16N2
reactant | ethyl diethoxyacetate | 13.5 mmol, 2.4 ml | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 4N, 60 ml | Cl | ClH
solvent | THF | 110 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 120 ml | O | H2O
solvent | Diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | acetic acid | 5N | C(C)(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | 4,7-Diphenyl-1H-benzimidazole-2-carbaldehyde | C1(=CC=CC=C1)C1=CC=C(C=2NC(=NC21)C=O)C2=CC=CC=C2 | C20H14N2O
